US04861778
A mixture of phthalic anhydride (0.02 mol) and phenyl hydrazine (0.04 mol) in 95 percent acetic acid (70 ml.) was heated to reflux for 24 hours in the presence of a catalytic amount of sodium acetate (0.4 g). Water was added to the mixture and the precipitate collected. The precipitate was washed with water, agitated with 2 percent aqueous solution of sodium hydroxide and filtered. The filtrate was acidified with concentrated hydrogen chloride. The precipitate was collected and recrystallized from ethyl acetate to produce the product, 2-phenyl-2,3-dihydrophthalazine-1,4-dione.

reactant | phthalic anhydride | 0.02 mol | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | phenyl hydrazine | 0.04 mol | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium acetate | 0.4 g | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-phenyl-2,3-dihydrophthalazine-1,4-dione | yield of 58 percent | C1(=CC=CC=C1)N1C(C2=CC=CC=C2C(N1)=O)=O | C14H10N2O2
